datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31],32.0494
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]=[S:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])=[S:13],51.4632
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13][S:14][H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13](=[C:12]([H:15])[H:16])[S:14][H:17],-51.8816
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],-4.6024
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[H:20])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16]#[C:15][H:19])([C:18]([H:21])([H:22])[H:23])[H:20])[H:7],33.723
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26],15.4808
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:34])([H:35])[H:36])[c:19]1[c:20]([H:37])[c:21]([H:38])[c:22]([H:39])[c:23]([H:40])[c:24]1[H:41])[c:25]1[c:26]([H:42])[c:27]([H:43])[c:28]([H:44])[c:29]([H:45])[c:30]1[H:46])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:31])([H:32])[H:33])([C:17]([C:18]([H:34])([H:35])[H:36])[c:19]1[c:20]([H:37])[c:21]([H:38])[c:22]([H:39])[c:23]([H:40])[c:24]1[H:41])[c:25]1[c:26]([H:42])[c:27]([H:43])[c:28]([H:44])[c:29]([H:45])[c:30]1[H:46])[H:8])([H:6])[H:7],78.9939
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([H:12])[H:13])([C:5]([O:6][O:7][H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([H:12])[H:13])([C:5]([O:6])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],175.728
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]1([C:7]([C:8]([H:23])([H:24])[H:25])[H:22])[H:21])([H:9])([H:10])[H:11],36.9866
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:7],65.4378
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9],96.6504
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([O:4][H:7])([H:10])[H:11])([H:5])[H:6],65.2704
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],5.8576
[C:0](#[C:1][S:2][H:4])[H:3].[S:5][S:6][H:7]>>[C:0](#[C:1][S:2])[H:3].[H:4][S:5][S:6][H:7],33.0118
[C:0](#[C:1][C:2](=[C:3]=[C:4]=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:7].[H:11]>>[C:0](=[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:11])[H:7],14.30928
